US06653471B2
To a solution of 4-(2,2-Dimethoxy-ethylamino)-1-[2-(4-nitro-phenyl)-ethyl]-6,7-dihydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylic acid methyl ester (25.33 mmol) in 125 mL MeOH is 10 mL HCl conc. added. It is heated at 63° C. for 15 hours. Since the reaction is not complete another 5 mL HCl conc. is added, and it is heated again at 63° C. for 10 hours. The solvent is evaporated in vacuo, and the remaining oil is dissolved in MeOH whereby K2CO3 (1.2 eq.) is added. After stirred at RT for 1 h the solid is filtered off, washed with MeOH and the filtrate is evaporated in vacuo yielding a yellow solid that is protonated. The protonated product is stirred in Dichloromethane and saturated NaCO3 sol. until everything dissolved. The two layers are separated and the water layer is extracted two times with dichloromethane. The organic layers are collected, dried and evaporated in vacuo yielding a free base which is triturated in ethyl acetate yielding 6-[2-(4-Nitro-phenyl)-ethyl]-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester, 9.11 g, as a yellow solid (77%): 1H NMR (CD3OD) 2.76 (t, 2H), 3.18 (t, 2H), 3.78 (s, 3H), 4.07 (t, 2H), 4.28 (t, 2H), 6.94 (s, 1H), 7.01 (s, 1H), 7.31 (d, 3H), 8.10 (d, 2H); LRMS calcd 366.38, found [M+H] 367.2.

reactant | 4-(2,2-Dimethoxy-ethylamino)-1-[2-(4-nitro-phenyl)-ethyl]-6,7-dihydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylic acid methyl ester | 25.33 mmol | COC(=O)C1=CN(C2=C1C(=NCC2)NCC(OC)OC)CCC2=CC=C(C=C2)[N+](=O)[O-] | C21H26N4O6
reactant | HCl | 10 mL | Cl | ClH
reactant | HCl | 5 mL | Cl | ClH
reactant | K2CO3 | 1.2 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 125 mL | CO | CH4O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 6-[2-(4-Nitro-phenyl)-ethyl]-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester | COC(=O)C1=CN(C=2CCN3C=CN=C3C12)CCC1=CC=C(C=C1)[N+](=O)[O-] | C19H18N4O4
